US05472984
A mixture of 3.2 g of 1-acetoxy-1-(6-benzyloxybenzo[b]furan-2-yl)-2-[2-(N,N-dimethylamino)ethoxy]ethane, 0.6 g of 5% palladium-carbon, 0.67 ml of concentrated hydrochloric acid and 30 ml of methanol was subjected to hydrogenation at room temperature under atmospheric pressure for 1.5 hours. After the completion of the reaction, the palladium-carbon was removed by filtration. The solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 20 ml of chloroform and 20 ml of water. The resulting mixture was adjusted to pH 7 with sodium hydrogencarbonate. The organic layer was separated. The aqueous layer was extracted with 10 ml of chloroform. The extract was combined with the previously separated organic layer. The combined organic layer was washed with 5 ml of water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/methanol=7/1) to obtain 1.57 g of oily 1-acetoxy-1-(6-hydroxybenzo[b]furan-2-yl)-2-[2-(N,N-dimethylamino)ethoxy]ethane (compound No. 407).

reactant | 1-acetoxy-1-(6-benzyloxybenzo[b]furan-2-yl)-2-[2-(N,N-dimethylamino)ethoxy]ethane | 3.2 g | C(C)(=O)OC(COCCN(C)C)C1=CC2=C(O1)C=C(C=C2)OCC2=CC=CC=C2 | C23H27NO5
reactant | hydrochloric acid | 0.67 ml | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
catalyst | palladium-carbon | 0.6 g | [C].[Pd]
solvent | water | 20 ml | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-acetoxy-1-(6-hydroxybenzo[b]furan-2-yl)-2-[2-(N,N-dimethylamino)ethoxy]ethane | 1.57 g | C(C)(=O)OC(COCCN(C)C)C1=CC2=C(O1)C=C(C=C2)O | C16H21NO5
